### PR TITLE
[Add] Properties of rounding in Rational

### PR DESCRIPTION
**Pull request by aortega0703**
Hi, I added some properties of the rounding functions for `Rational.Unnormalised`. Namely, bounds for `floor` and `ceil`:
- $\lfloor q \rfloor \leq q < \lfloor q \rfloor + 1$
- $\lceil q \rceil - 1 < q \leq \lceil q \rceil$

And approximation errors (absolute difference) for `floor`, `ceil`, and `round`:
- $|q - \lfloor q \rfloor| \leq 1$
- $|q - \lceil q \rceil| \leq 1$
- $|q - \mathrm{round}(q)| \leq \frac{1}{2}$

I also added a property of `∣_∣` to help me prove the errors:
- $- q \leq p \leq q \implies | p | \leq q$

I still haven't translated these proofs to normalised `Rational`s, and the proof for `∣q-round[q]∣≤½` is quite long, so any advice is welcome.

### CODE REVIEW

**Comment by jamesmckinna** [comment]
As to 'advice', it might be worth mentioning #1434 ... 

... and speculating whether it is more 'efficient' to prove instead: (these may be false, or else insufficiently sharp; I haven't checked ;-)) as somehow 'what we want from the specification of floor and ceiling'
* `⌊ q ⌋ ≤ q ≤ ⌈ q ⌉` (`floor` and `ceil` really are lower- and upper- bounds)
* `⌈ q ⌉ < ⌊ q ⌋ + 1` (and they're not too far apart) UPDATED: using `ℤ.n<s[n/ℕd]*d` from `Data.Integer.DivMod`.

from which some of your properties would follow...but I confess its a while since I could remember any approximation theory ;-) so maybe take these with a pinch of salt. Not sure how to deal with the bounds on rounding, either ;-)

File: src/Data/Rational/Unnormalised/Properties.agda [hunk 1]
```diff
@@ -33,6 +33,7 @@ import Data.Nat.Properties as ℕ
   using (≤-refl; +-comm; +-identityʳ; +-assoc
         ; *-identityʳ; *-comm; *-assoc; *-suc)
 open import Data.Integer.Base as ℤ using (ℤ; +0; +[1+_]; -[1+_]; 0ℤ; 1ℤ; -1ℤ)
+open import Data.Integer.DivMod as ℤ using ()
```
Comment (jamesmckinna) [inline src/Data/Rational/Unnormalised/Properties.agda]: Is it easier (?) simply to write

```suggestion
import Data.Integer.DivMod as ℤ
```

File: src/Data/Rational/Unnormalised/Properties.agda [hunk 2]
```diff
@@ -1933,6 +1934,130 @@ pos⊔pos⇒pos p q = positive (⊔-mono-< (positive⁻¹ p) (positive⁻¹ q))
 ∣-∣-nonNeg (mkℚᵘ +0       _) = _
 ∣-∣-nonNeg (mkℚᵘ -[1+ _ ] _) = _
 
+-q≤p≤q⇒∣p∣≤q : ∀ p q → - q ≤ p → p ≤ q → ∣ p ∣ ≤ q
+-q≤p≤q⇒∣p∣≤q p q -q≤p p≤q =
+  [ (λ ∣p∣≡p → subst (λ h → h ≤ q) (sym ∣p∣≡p) p≤q)
+  , (λ ∣p∣≡-p → subst (λ h → h ≤ q) (sym ∣p∣≡-p)
```
Comment (jamesmckinna) [inline src/Data/Rational/Unnormalised/Properties.agda]: Ditto.

```suggestion
  , (λ ∣p∣≡-p → subst (_≤ q) (sym ∣p∣≡-p)
```

File: src/Data/Rational/Unnormalised/Properties.agda [hunk 3]
```diff
@@ -1933,6 +1934,130 @@ pos⊔pos⇒pos p q = positive (⊔-mono-< (positive⁻¹ p) (positive⁻¹ q))
...
+    (subst (λ h → _ ≤ h) (neg-involutive-≡ q) (neg-mono-≤ -q≤p))) ]′
```
Comment (jamesmckinna) [inline src/Data/Rational/Unnormalised/Properties.agda]: And finally
```suggestion
    (subst (_ ≤_) (neg-involutive-≡ q) (neg-mono-≤ -q≤p))) ]′
```

File: src/Data/Rational/Unnormalised/Properties.agda [hunk 4]
```diff
@@ -1933,6 +1934,130 @@ pos⊔pos⇒pos p q = positive (⊔-mono-< (positive⁻¹ p) (positive⁻¹ q))
 ∣-∣-nonNeg (mkℚᵘ +0       _) = _
 ∣-∣-nonNeg (mkℚᵘ -[1+ _ ] _) = _
 
+-q≤p≤q⇒∣p∣≤q : ∀ p q → - q ≤ p → p ≤ q → ∣ p ∣ ≤ q
+-q≤p≤q⇒∣p∣≤q p q -q≤p p≤q =
+  [ (λ ∣p∣≡p → subst (λ h → h ≤ q) (sym ∣p∣≡p) p≤q)
```
Comment (jamesmckinna) [inline src/Data/Rational/Unnormalised/Properties.agda]: Use section notation?
```suggestion
  [ (λ ∣p∣≡p → subst (_≤ q) (sym ∣p∣≡p) p≤q)
```

Comment (jamesmckinna) [reply src/Data/Rational/Unnormalised/Properties.agda]: Apologies, my review comments seem to have conflicting temporal/spatial order on the page!?

File: src/Data/Rational/Unnormalised/Properties.agda [hunk 5]
```diff
@@ -1933,6 +1934,130 @@ pos⊔pos⇒pos p q = positive (⊔-mono-< (positive⁻¹ p) (positive⁻¹ q))
...
+
+------------------------------------------------------------------------
+-- Properties of Rounding functions
+------------------------------------------------------------------------
+-- Bounds of ⌊_⌋ and ⌈_⌉
+
+⌊q⌋≤q : ∀ q → ⌊ q ⌋ / 1 ≤ q
+⌊q⌋≤q q@record{} = *≤* (begin
+  ⌊ q ⌋ ℤ.* (↧ q)           ≤⟨ ℤ.[n/d]*d≤n (↥ q) (↧ q) ⟩
+  (↥ q)                     ≡⟨  sym (ℤ.*-identityʳ (↥ q)) ⟩
```
Comment (jamesmckinna) [inline src/Data/Rational/Unnormalised/Properties.agda]: We now have somewhat better ergonomics for symmetric appeals to equality:
```suggestion
  (↥ q)                     ≡⟨ ℤ.*-identityʳ (↥ q) ⟨
```
which you could deploy throughout.

File: src/Data/Rational/Unnormalised/Properties.agda [hunk 6]
```diff
@@ -1933,6 +1934,130 @@ pos⊔pos⇒pos p q = positive (⊔-mono-< (positive⁻¹ p) (positive⁻¹ q))
 ∣-∣-nonNeg (mkℚᵘ +0       _) = _
 ∣-∣-nonNeg (mkℚᵘ -[1+ _ ] _) = _
 
+-q≤p≤q⇒∣p∣≤q : ∀ p q → - q ≤ p → p ≤ q → ∣ p ∣ ≤ q
+-q≤p≤q⇒∣p∣≤q p q -q≤p p≤q =
```
Comment (JacquesCarette) [inline src/Data/Rational/Unnormalised/Properties.agda]: I'm pretty sure this proof would be much nicer if it used `with` on `∣p∣≡p∨∣p∣≡-p p` followed by pattern-matching all the way down to `refl`, which would remove the need for `subst`. 

Alternatively, create two lemmas, one for each of the cases, and then use them here. 

Perhaps even simpler would be to case on whether p is non-negative or not?

File: src/Data/Rational/Unnormalised/Properties.agda [hunk 7]
```diff
@@ -1933,6 +1934,130 @@ pos⊔pos⇒pos p q = positive (⊔-mono-< (positive⁻¹ p) (positive⁻¹ q))
 ∣-∣-nonNeg (mkℚᵘ +0       _) = _
 ∣-∣-nonNeg (mkℚᵘ -[1+ _ ] _) = _
 
+-q≤p≤q⇒∣p∣≤q : ∀ p q → - q ≤ p → p ≤ q → ∣ p ∣ ≤ q
```
Comment (JacquesCarette) [inline src/Data/Rational/Unnormalised/Properties.agda]: Also: I think `p` and `q` should be made implicit.

File: src/Data/Rational/Unnormalised/Properties.agda [hunk 8]
```diff
@@ -1933,6 +1934,130 @@ pos⊔pos⇒pos p q = positive (⊔-mono-< (positive⁻¹ p) (positive⁻¹ q))
...
+  , (λ ∣p∣≡-p → subst (_≤ q) (sym ∣p∣≡-p)
+    (subst (_ ≤_) (neg-involutive-≡ q) (neg-mono-≤ -q≤p))) ]′
+  (∣p∣≡p∨∣p∣≡-p p)
+
+------------------------------------------------------------------------
+-- Properties of Rounding functions
+------------------------------------------------------------------------
+-- Bounds of ⌊_⌋ and ⌈_⌉
+
+⌊q⌋≤q : ∀ q → ⌊ q ⌋ / 1 ≤ q
```
Comment (JacquesCarette) [inline src/Data/Rational/Unnormalised/Properties.agda:2091]: That floor changes type and so we have to change back to do `≤` makes sense. But this `/ 1` idiom seems too low-level. Do we not have some nicer way of saying this?

File: src/Data/Rational/Unnormalised/Properties.agda [hunk 9]
```diff
@@ -1933,6 +1934,130 @@ pos⊔pos⇒pos p q = positive (⊔-mono-< (positive⁻¹ p) (positive⁻¹ q))
...
+⌊q⌋≤q q@record{} = *≤* (begin
+  ⌊ q ⌋ ℤ.* (↧ q)           ≤⟨ ℤ.[n/d]*d≤n (↥ q) (↧ q) ⟩
+  (↥ q)                     ≡⟨  sym (ℤ.*-identityʳ (↥ q)) ⟩
+  (↥ q) ℤ.* (↧ (⌊ q ⌋ / 1)) ∎) where open ℤ.≤-Reasoning
+
+q<⌊q⌋+1 : ∀ q → q < ⌊ q ⌋ / 1 + 1ℚᵘ
+q<⌊q⌋+1 q@record{} = let n = ↥ q; d = ↧ q in *<* ( begin-strict
+  n ℤ.* 1ℤ ≡⟨ ℤ.*-identityʳ n ⟩
```
Comment (JacquesCarette) [inline src/Data/Rational/Unnormalised/Properties.agda]: please line up your equational reasoning steps

File: src/Data/Rational/Unnormalised/Properties.agda [hunk 10]
```diff
@@ -1933,6 +1934,130 @@ pos⊔pos⇒pos p q = positive (⊔-mono-< (positive⁻¹ p) (positive⁻¹ q))
...
+  n        ≡⟨ ℤ.a≡a%n+[a/n]*n n d  ⟩
+  ℤ.+ (n ℤ.% d) ℤ.+ ⌊ q ⌋ ℤ.* d
+      <⟨ ℤ.+-monoˡ-< (⌊ q ⌋ ℤ.* d) (ℤ.+<+ (ℤ.n%d<d n d)) ⟩
+  d ℤ.+ ⌊ q ⌋ ℤ.* d
```
Comment (JacquesCarette) [inline src/Data/Rational/Unnormalised/Properties.agda]: feels like the steps from here to the end should be pulled out as a lemma.

File: src/Data/Rational/Unnormalised/Properties.agda [hunk 11]
```diff
@@ -1933,6 +1934,130 @@ pos⊔pos⇒pos p q = positive (⊔-mono-< (positive⁻¹ p) (positive⁻¹ q))
...
+  (1ℤ ℤ.* d) ℤ.+ ⌊ q ⌋ ℤ.* d
+      ≡⟨ sym (ℤ.*-distribʳ-+ d 1ℤ (n ℤ./ d)) ⟩
+  (1ℤ ℤ.+ ⌊ q ⌋) ℤ.* d
+      ≡⟨ cong (λ h → h ℤ.* d) (ℤ.+-comm 1ℤ ⌊ q ⌋) ⟩
+  (⌊ q ⌋ ℤ.+ 1ℤ) ℤ.* d
+      ≡⟨ cong (λ h → (h ℤ.+ 1ℤ) ℤ.* d) (sym (ℤ.*-identityʳ ⌊ q ⌋)) ⟩
+  (↥ (⌊ q ⌋ / 1 + 1ℚᵘ)) ℤ.* d ∎) where open ℤ.≤-Reasoning
+
+q≤⌈q⌉ : ∀ q → q ≤ ⌈ q ⌉ / 1
+q≤⌈q⌉ q@record{} = subst
```
Comment (JacquesCarette) [inline src/Data/Rational/Unnormalised/Properties.agda]: doing this by symmetry is cute -- but forces you to use `subst`. I would think the direct proof might be better?

File: src/Data/Rational/Unnormalised/Properties.agda [hunk 12]
```diff
@@ -1933,6 +1934,130 @@ pos⊔pos⇒pos p q = positive (⊔-mono-< (positive⁻¹ p) (positive⁻¹ q))
...
+  (_≤ - (⌊ - q ⌋ / 1))
+  (neg-involutive-≡ q)
+  (neg-mono-≤ (⌊q⌋≤q (- q)))
+
+⌈q⌉-1<q : ∀ q → ⌈ q ⌉ / 1 - 1ℚᵘ < q
+⌈q⌉-1<q q@record{} = subst₂  _<_
```
Comment (JacquesCarette) [inline src/Data/Rational/Unnormalised/Properties.agda]: Same here.

File: src/Data/Rational/Unnormalised/Properties.agda [hunk 13]
```diff
@@ -1933,6 +1934,130 @@ pos⊔pos⇒pos p q = positive (⊔-mono-< (positive⁻¹ p) (positive⁻¹ q))
...
+  (neg-distrib-+ (⌊ - q ⌋ / 1)  1ℚᵘ)
+  (neg-involutive-≡ q)
+  (neg-mono-< (q<⌊q⌋+1 (- q)))
+
+------------------------------------------------------------------------
+-- Approximation errors of ⌊_⌋ ⌈_⌉ and round(_)
+
+∣q-⌊q⌋∣≤1 : ∀ q → ∣ q - ⌊ q ⌋ / 1 ∣ ≤ 1ℚᵘ
+∣q-⌊q⌋∣≤1 q = let ⌊q⌋ = ⌊ q ⌋ / 1 in -q≤p≤q⇒∣p∣≤q (q - ⌊ q ⌋ / 1) 1ℚᵘ
+  (begin
```
Comment (JacquesCarette) [inline src/Data/Rational/Unnormalised/Properties.agda]: I think both branches should be lemmas with names.

File: src/Data/Rational/Unnormalised/Properties.agda [hunk 14]
```diff
@@ -1933,6 +1934,130 @@ pos⊔pos⇒pos p q = positive (⊔-mono-< (positive⁻¹ p) (positive⁻¹ q))
...
+  ∣ - q - ⌊-q⌋ ∣    ≤⟨ ∣q-⌊q⌋∣≤1 (- q) ⟩
+  1ℚᵘ               ∎ where open ≤-Reasoning
+
+private
+  -½≤q-⌊q+½⌋ : ∀ q → - ½ ≤ q - ⌊ q + ½ ⌋ / 1
+  -½≤q-⌊q+½⌋ q = begin
+    - ½               ≃⟨ ≃-sym (+-identityˡ _) ⟩
+    0ℚᵘ - ½           ≃⟨ +-congˡ (- ½) (≃-sym (+-inverseʳ q)) ⟩
+    q - q - ½         ≃⟨ +-assoc q _ _ ⟩
+    q + (- q - ½)     ≡⟨ cong (q +_) (sym (neg-distrib-+ q ½)) ⟩
```
Comment (JacquesCarette) [inline src/Data/Rational/Unnormalised/Properties.agda]: There are combinators (for groups) that should let you do those 3 steps in 1 line. Or there should be...

**Review by JacquesCarette — CHANGES_REQUESTED** [review]
Review pass 1. There will likely be a pass 2.

File: src/Data/Rational/Unnormalised/Properties.agda (hunk 6 above)
Comment (aortega0703) [reply src/Data/Rational/Unnormalised/Properties.agda]: I tried following the first approach:
```agda
-q≤p≤q⇒∣p∣≤q : ∀ {p q} → - q ≤ p → p ≤ q → ∣ p ∣ ≤ q
-q≤p≤q⇒∣p∣≤q {p} {q} -q≤p p≤q with ∣p∣≡p∨∣p∣≡-p p
... | inj₁ x = {!!}
... | inj₂ y = {!!}
```
but when I try splitting either `x` or `y` to pattern-match against `refl` I'm hit with
```
I'm not sure if there should be a case for the constructor refl,
because I get stuck when trying to solve the following unification
problems (inferred index ≟ expected index):
  ∣ p₁ ∣ ≟ p₁
```
so I don't know how to proceed there. In the meantime I changed my proof to
```agda
-q≤p≤q⇒∣p∣≤q : ∀ {p q} → - q ≤ p → p ≤ q → ∣ p ∣ ≤ q
-q≤p≤q⇒∣p∣≤q {p} {q} -q≤p p≤q with ∣p∣≡p∨∣p∣≡-p p
... | inj₁ ∣p∣≡p  rewrite ∣p∣≡p  = p≤q 
... | inj₂ ∣p∣≡-p rewrite ∣p∣≡-p =
      subst (_ ≤_) (neg-involutive-≡ q) (neg-mono-≤ -q≤p)
```
which is a bit nicer? On the third approach, I tried `with` on `p <ᵇ 0ℚ` (which I think is what you meant?) to work on the `true`/`false` arms but I can't figure how to tell Agda to reduce the `∣ p ∣` in the goal to either `- p` or `p` in each case. I'm still finding my way around Agda and the standard lib so thanks for the patience and comments!

File: src/Data/Rational/Unnormalised/Properties.agda (hunk 8 above)
Comment (aortega0703) [reply src/Data/Rational/Unnormalised/Properties.agda:2091]: There is a `1/_` for reciprocals but I don't see anything like a `_/1` to simply "cast" the type. I saw that `fracPart` used `/ 1` and ran with it as the _nicer_ constructor compared to `mkℚᵘ`.

File: src/Data/Rational/Unnormalised/Properties.agda (hunk 11 above)
Comment (aortega0703) [reply src/Data/Rational/Unnormalised/Properties.agda]: Is there a reason for avoiding `subst`?

File: src/Data/Rational/Unnormalised/Properties.agda (hunk 8 above)
Comment (jamesmckinna) [reply src/Data/Rational/Unnormalised/Properties.agda:2091]: I think I'd be happy with introducing an explicit coercion from `ℤ` to `ℚᵘ` as `mkℚᵘ_ 0`... choosing a good name for such a thing being the hard part! Possible solution:
```agda
ℤtoℚᵘ : ℤ → ℚᵘ
ℤtoℚᵘ i = mkℚᵘ i 0

syntax ℤtoℚᵘ i = [ i ]ℤ
```

There's a separate question as to whether new `syntax` declarations is a good idea at all, and/or whether, as in this case, because the associated function is in fact a *pattern* (specialising `mkℚᵘ`), whether it itself should be introduced as
```agda
pattern ℤtoℚᵘ i = mkℚᵘ i 0

syntax ℤtoℚᵘ i = [ i ]ℤ
```
... but it's not clear whether we could ever use this in a pattern match!?

File: src/Data/Rational/Unnormalised/Properties.agda (hunk 10 above)
Comment (jamesmckinna) [reply src/Data/Rational/Unnormalised/Properties.agda]: See my comments above: this is really the proof that `floor` and `ceil` are *tight* bounds, and is properly a lemma about *integers*?

File: src/Data/Rational/Unnormalised/Properties.agda (hunk 11 above)
Comment (jamesmckinna) [reply src/Data/Rational/Unnormalised/Properties.agda]: There's a lot of lore here... in which @JacquesCarette is a more knowledgeable and experienced commentator. But googling `subst hell` may yield some interesting results... (YMMV)

The design principles we tend to (try to!) adhere to in `stdlib` are roughly:
* avoid `subst`, and even more so, `rewrite` in favour of explicit equational reasoning.
* on concrete data with `Irrelevant` (propositional) equality, avoid explicit matching on `refl` in favour of writing explicit `cast` operators which recur on the data, not proofs (eg in `Data.Vec`...)

I would also add: we tend to use `subst` where `resp` would suffice, and there is often already accumulated lemma machinery around proofs of `Respects` of various kinds. 

It's a more nuanced way of talking about situations where "I need *this* property to be respected, rather than *all* properties", but old code in the library tended not to make that local/global distinction quite as sharply...

**Comment by aortega0703** [comment]
@jamesmckinna Sorry for not replying to your first comment earlier, proving `⌈ q ⌉ ≤ ⌊ q ⌋ + 1` was harder than I thought haha. The idea for my original bounds was
- `⌊ q ⌋     ≤ q < ⌊ q ⌋ + 1` (`floor` is a lower bound and is close to `q`)
- `⌈ q ⌉ - 1 < q ≤ ⌈ q ⌉    ` (`ceil` is an upper bound and is close to `q`)

`⌈ q ⌉ ≤ ⌊ q ⌋ + 1` is very nice (and true!) as it means they are also close to each other, and it's a tighter bound that does imply my original `⌈ q ⌉ - 1 < q` and `q < ⌊ q ⌋ + 1` that I use later on `∣q-round[q]∣≤½`. I typed it as `ℤ.≤` as I think it does make more sense not coercing them to `ℚᵘ` here
```agda
⌈q⌉≤⌊q⌋+1 : ∀ q →  ⌈ q ⌉ ℤ.≤ ⌊ q ⌋ ℤ.+ 1ℤ
```
but when I tried actually proving the implications I hit
```agda
q≤⌊q⌋+1  : ∀ q → q ≤ ⌊ q ⌋ / 1 + 1ℚᵘ
q≤⌊q⌋+1 q = begin
  q ≤⟨ q≤⌈q⌉ q ⟩
  ⌈ q ⌉ / 1 ≤⟨ {!!} ⟩ {!!} -- ≤ (⌊ q ⌋ + 1) / 1
  where open ≤-Reasoning
```
and I don't think there's anything like `n₁ < n₂ → n₁ / d < n₂ / d` for me to use there, or even `(n₁ + n₂) / d ≃ n₁ / d + n₂ / d` to use afer that. Should I add those and proceed to prove `⌈ q ⌉ - 1 < q` and `q < ⌊ q ⌋ + 1` using `⌈ q ⌉ ≤ ⌊ q ⌋ + 1`, or leave them as independent?

**Comment by jamesmckinna** [comment]
Thanks @aortega0703 for querying my original half-baked thoughts. 

I wrote something manifestly incorrect in the night when only half-awake (and when I should have been asleep ;-)), and my version of the story seems a bit less clear than yours. Once I've worked out the details, I'll try and repost. 

But there is something about all these functions being piecewise-linear, indeed piecewise *constant*, with discontinuities at the `ℤ` points on `ℚᵘ` which suggest to me a different angle of attack: namely to split not on `+`/`-`, but on integer/non-integer, and analyse the various functions accordingly. 

But that analysis, and the fiddliness involved in constructing the corresponding *view* machinery to instrument that case analysis, seems ... differently complicated to your approach.

**Comment by aortega0703** [comment]
I tried cleaning my proof a bit, mostly by adding some integer lemmas (me shufling things around). Although, after thinking about it some more and fiddling with some proofs I no longer think `⌈ q ⌉ - 1 < q` and `q < ⌊ q ⌋ + 1` should be proven via `⌈ q ⌉ ≤ ⌊ q ⌋ + 1`. Doing `q ≤ ⌈ q ⌉ ≤ ⌊ q ⌋ + 1` means we no longer get the strict inequality `q < ⌊ q ⌋ + 1` but the weaker version `q  ≤ ⌊ q ⌋ + 1` (similarly with `⌈ q ⌉ - 1 ≤ q`). 
That said, it's interesting as the distance between `floor` and `ceil`, and `⌈ q ⌉ = ⌊ q ⌋ + 1` for everything but the integers! 
Thinking about the piece-constant behaviour you mentioned I just added `⌈ q ⌉ = ⌊ q ⌋ = q` for `q` integer (actually as `n / 1` hehe), but I think after lifting some properties from `Data.Nat.DivMod` to `Data.Integer.DivMod` I could do something more general with `(↥ q) % (↧ q)`. Maybe say that `⌊ n / 1 + q ⌋ = n` for `0 ≤ q < 1`?

**Comment by jamesmckinna** [comment]
Thanks @aortega0703 . Indeed, where I had got to was:
* for `q = [ i ]ℤ`, we have `⌊ q ⌋ ≡ i ≡ ⌈ q ⌉` (and hence surely `⌈ q ⌉ < ⌊ q ⌋ + 1` and `[ ⌊ q ⌋ ]ℤ ≤ q ≤ [ ⌈ q ⌉ ]ℤ`)
* otherwise (and the case analysis is `Decidable`! because divisibility on integers is...), we have `[ ⌊ q ⌋ ]ℤ < q < [ ⌈ q ⌉ ]ℤ ≡ [ ⌊ q ⌋ ]ℤ + 1`

Is everything else provable from this case analysis?

File: src/Data/Rational/Unnormalised/Properties.agda (hunk 8 above)
Comment (jamesmckinna) [reply src/Data/Rational/Unnormalised/Properties.agda:2091]: Alternatively, we can use my favourite identifier $$\iota$$ for an inclusion/monomorphism, and write:
```agda
ι : ℤ → ℚᵘ -- ℤ⇒ℚᵘ
ι i = mkℚᵘ i 0

ιℕ : ℕ → ℚᵘ -- ℕ⇒ℚᵘ
ιℕ n = ι (+ n)
```

**Comment by aortega0703** [comment]
@jamesmckinna The non-integer case is not clear to me. I think an outline for floor would be
`n = [n/d]*d + n%d              ` by `a≡a%n+[a/n]*n`
`q = n / d = ([n/d]*d + n%d) / d`
`= ([n/d]*d / d) + (n%d / d)    ` with `/-distrib-+` (need to prove)
`= [n/d] + (n%d / d)            ` by `*-cancelʳ-/`
`= ⌊ q ⌋ + (n%d / d)`
Which until here I think it can be it's own result. Then `n % d = 0` implies `q = ⌊ q ⌋`, otherwise `0 < (n%d / d) < 1` and `⌊ q ⌋ < q < ⌊ q ⌋ + 1`.

Ceil is defined as `- ⌊ - q ⌋` so in the end
`q = - [-n/d] - (-n%d / d)`
`= ⌈ q ⌉ - (-n%d / d)`
If `n % d = 0` (which need to prove, implies `-n % d = 0`) then `q = ⌈ q ⌉`, otherwise `0 < (-n%d / d) < 1` and `⌈ q ⌉ - 1 < q < ⌈ q ⌉`.

But I don't know how to get `⌈ q ⌉ = ⌊ q ⌋ + 1` from that (maybe equating both and proving `n%d + -n%d = d` (or 0)?). I feel like maybe I'm complicating things more than necessary? what do you think?

**Comment by jamesmckinna** [comment]
Well it's entirely possible that *I'm* complicating things more than necessary!

File: src/Data/Rational/Unnormalised/Properties.agda (hunk 11 above)
Comment (JacquesCarette) [reply src/Data/Rational/Unnormalised/Properties.agda]: What does `subst` really say: I have X knowledge but *at the wrong type*, so I can push things around to transform it to be at the type that I want. But you should ask yourself:
1. why was the knowledge 'at the wrong type' to begin with?
2. by pushing it around, are you getting a proper witness for the property you're looking at?
3. can you obtain that witness 'at the right type' directly?

Less philosophically: is a property is in `Set`, then if you want to use the data that is in the proof of that property, and you have used `subst`, you're going to be blocked unless the proof of the equality used in `subst` was *exactly* `refl`. But if it was exactly `refl`, you would not have needed `subst` at all! So `subst` forces *downstream* pain.

`subst` (and more generally `transport`) hell is very real.

**Comment by jamesmckinna** [comment]
Earlier I'd mentioned #1434 but going back over the open issues, I should also have mentioned #1591 .

Shoutout to @aortega0703 : how close/far away are we from merging this PR, and being able to close both (?) issues, besides the merge conflict? Do you feel like returning to deal with this?

**Comment by aortega0703** [comment]
Yes, I'd like to return to this; I opened #2962 to have some properties that would make these proofs easier/prettier and kind of got distracted with other stuff. I think this PR could be merged as is (besides the merge conflict) and I could open a new PR as soon as I have more proofs.

**Comment by aortega0703** [comment]
As a summary of changes, I proved the following for `floor`, `ceil`, and `round` in `Data.Rational.Unnormalised`:
- `floor-cong`, `ceiling-cong`, `round-cong` : Rounding preserves `_≃_`
- `⌊i/1⌋≡i`, `⌈i/1⌉≡i` : floor and ceil of integers
- `⌊-q⌋≡-⌈q⌉`, `⌈-q⌉≡-⌊q⌋`, `round[-q]≡-round[q]` : rounding on negative argument
- `⌊q⌋≤q`, `q≤⌈q⌉` : floor/ceil is below/above `q`
- `q<⌊q⌋+1`, `⌈q⌉-1<q` : floor/ceil is not too far below/above `q`
- `⌈q⌉≤⌊q⌋+1` : floor and ceil are not too far apart from each other
- `∣q-⌊q⌋∣<1`, `∣q-⌈q⌉∣<1`, `∣q-round[q]∣≤½` : error of rounding functions
- `i≤q⇒i≤⌊q⌋` : `floor` is the greatest integer `≤ q`
- `q≤i⇒⌈q⌉≤i` : `ceiling` is the least integer `≥ q` 
- `∣q-round[q]∣≤∣q-i∣` : `round` is the integer nearest to `q`

which is about everything mentioned in #1591 (excluding anything `truncate` and `fracPart` related).

There are also some proofs scattered around that I needed to use:
`Data.Bool.Properties`:
- `T-to-≡`, `≡-to-T`, `T-not-to-≡`, `≡-to-T-not`: I used these to not have to unpack the respective `Equivalence` (`¬T-≡` and `T-≡`) each time I need them, don't know if that's okay though

`Data.Integer.Base`:
- `-≤-⁻¹`, `+≤+⁻¹`, `-<-⁻¹`, `+<+⁻¹` : destructors for `_≤_` and `_<_` akin to `s≤s⁻¹` and `s<s⁻¹` in `Data.Nat.Base`

`Data.Integer.DivMod`:
- `i/ℕ1≡i`, `i/1≡i`
- `/ℕ-congʳ` : Instance parameters were giving me some with `cong`, I don't know if there's a better approach (`Cannot instantiate the metavariable _B_1029 to solution .⦃ _ = z : ℕ.NonZero x ⦄ → ℤ since it contains the variable x which is not in scope of the metavariable`)
- `nonNeg[i]⇒i/ℕd`, `neg[i]∧∣i∣%d≡0⇒i/ℕd`, `neg[i]∧∣i∣%d≢0⇒i/ℕd` : These facilitated equational reasoning for `/ℕ`
- `*-cancelˡ-/ℕ`, `*-cancelʳ-/ℕ` : Left/right cancellation of `_*_` in `_/ℕ_`
- `*-cancelˡ-/ℕ`, `*-cancelʳ-/ℕ` : Left/right cancellation on `_*_` in `_/_`. Only holds for non-negative cancels, e.g. `(+ 2 * - (+ 1)) / (+ 4 * - (+ 1)) ≡ + 1` but `(+ 2) / (+ 4) ≡ 0`

`Data.Integer.Properties`:
- `nonZero⁻¹` : Analogous to `≢-nonZero⁻¹` in `Data.Nat.Base`
- `nonNeg∧nonZero⇒Pos`
- `∣i-j∣≡0⇒i≡j`
- `i*j≢0⇒i≢0`, `i*j≢0⇒i≢0` : Analogous to `m*n≢0⇒m≢0` and `m*n≢0⇒n≢0` in `Data.Nat.Properties`
- `i≥0∧j≥0⇒i*j≥0`, `i>0∧j<0⇒i*j<0`

`Data.Nat.DivMod`:
- `m*n%o≡m*n%[m*o]` : Symmetric to `m%n*o≡m*o%[n*o]`

`Data.Nat.Properties`:
- `m*n≡0⇒n≡0` : Symmetric to `m*n≡0⇒m≡0`

`Data.Rational.Unnormalised.Properties`:
- `≤ᵇ-reflects-≤`, `<ᵇ-reflects-<` : Analogous to their namesake in `Data.Nat.Properties`
- `≰ᵇ⇒≰`, `≰⇒≰ᵇ`, `≮ᵇ⇒≮`, `≮⇒≮ᵇ` : Similar to their positive counterparts
- `neg-distrib-minus` : `- (p - q) ≡ q - p`, it makes some proofs just a bit nicer
- `/-cancelʳ-<`, `/-cancelʳ-≤` : Inequality of fractions to inequality of the numerators.
- `∣p-q∣≤∣p-r∣+∣r-q∣` : Triangle inequality
- `∣p-q∣≡∣q-p∣` : it makes some proofs just a bit nicer
- `-q≤p≤q⇒|p|≤q`, `-q<p<q⇒∣p∣<q` : Some ways to prove `∣_∣` inequalities.

`Relation.Nullary.Reflects`:
- `reflects-true`, `reflects-false`, `reflects-proof`, `reflects-refute` : I used these to prove `≰ᵇ⇒≰`, `≰⇒≰ᵇ`, `≮ᵇ⇒≮`, `≮⇒≮ᵇ`. I'm really not sure this is the intended use of `Reflects` or if there's a better way.

I intend to translate these proofs to normalized Rationals in another PR.
